US06440965B1
Idomethane (Aldrich) (2.8 mL. 45 mmoles) was added to a solution of 5-(4-chlorophenoxy)-2-(mercapto)pyrimidine-4(3H)-one (10.24 g, 40 mmoles) in methanol (52 mL) and 1.0 N aqueous sodium hydride (40 mL). The resultant mixture was stirred at ambient temperature for 5.5 hours, then heated at 60° C. for 30 minutes. The mixture was spin evaporated in vacuo to give a solid, which was triturated with ice-water and then collected by suction filtration. Half of the light brown solid was recrystallized from ethyl acetate and half from ethanol to give 7.06 g (88% yield) of 5-(4-chlorophenoxy)-2(methylmercapto)pyrimidin-4-(3H)-one as a fluffy off-white solid, mp 232-233° C.

reactant | 5-(4-chlorophenoxy)-2-(mercapto)pyrimidine-4(3H)-one | 40 mmoles, 10.24 g | ClC1=CC=C(OC=2C(NC(=NC2)S)=O)C=C1 | C10H7ClN2O2S
reactant | methanol | 52 mL | CO | CH4O
solvent | sodium hydride | 1.0 N, 40 mL | [H-].[Na+]
product | 5-(4-chlorophenoxy)-2(methylmercapto)pyrimidin-4-(3H)-one | 7.06 g, 88% yield | ClC1=CC=C(OC=2C(NC(=NC2)SC)=O)C=C1 | C11H9ClN2O2S
